US09340544B2
2-Chloro-6-(4-chloro-phenylsulfanyl)-9-methyl-9H-purine
Was prepared according to Example 3 from 4-chlorobenzenethiol and 2,6-dichloro-9-ethyl-9H-purine.

reactant | 4-chlorobenzenethiol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 2,6-dichloro-9-ethyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)CC)Cl | C7H6Cl2N4
product | 2-Chloro-6-(4-chloro-phenylsulfanyl)-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)SC1=CC=C(C=C1)Cl | C12H8Cl2N4S
